US08071592B2
6-{[(1-{2-[6-(methyloxy)-3-oxopyrido[2,3-b]pyrazin-4(3H)-yl]ethyl}-4-piperidinyl)amino]methyl}-2H-pyrido[3,2-b][1,4]oxazin-3(4H)-one
A solution of 4-[2-(4-amino-1-piperidinyl)ethyl]-6-(methyloxy)pyrido[2,3-b]pyrazin-3(4H)-one (50 mg, 0.1648 mmoles) and 3-oxo-3,4-dihydro-2H-pyrido[3,2-b][1,4]oxazine-6-carboxaldehyde (for a synthesis see WO2003087098, Example 31(e)) (29.4 mg, 0.1648 mmoles) in anhydrous DCM (5 ml) and anhydrous MeOH (0.5 ml) was stirred at rt for 5 mins. Sodium triacetoxyborohydride (104.7 mg, 0.494 mmoles) was added and the mixture was stirred, under argon, for 24 h. The reaction was treated with sat. aq. NaHCO3 solution (2 ml) and 9:1 DCM:MeOH (5 ml). The layers were separated and the aqueous layer was washed with 9:1 DCM:MeOH (10 ml) and 5:1 DCM:MeOH (2×20 ml). The organic extracts were combined, passed through a hydrophobic frit and evaporated to an orange gum. Purification on a 10 g silica column eluted with an 80:20 DCM:MeOH elution gave the product as a yellow gum (39.8 mg, 52%).

reactant | 4-[2-(4-amino-1-piperidinyl)ethyl]-6-(methyloxy)pyrido[2,3-b]pyrazin-3(4H)-one | 0.1648 mmoles, 50 mg | NC1CCN(CC1)CCN1C2=C(N=CC1=O)C=CC(=N2)OC | C15H21N5O2
reactant | 3-oxo-3,4-dihydro-2H-pyrido[3,2-b][1,4]oxazine-6-carboxaldehyde | O=C1NC2=C(OC1)C=CC(=N2)C=O | C8H6N2O3
reactant | Sodium triacetoxyborohydride | 0.494 mmoles, 104.7 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | NaHCO3 | 2 ml | C(=O)(O)[O-].[Na+]
solvent | DCM | 5 ml | C(Cl)Cl | CH2Cl2
solvent | MeOH | 5 ml | CO | CH4O
solvent | MeOH | 0.5 ml | CO | CH4O
product | 6-{[(1-{2-[6-(methyloxy)-3-oxopyrido[2,3-b]pyrazin-4(3H)-yl]ethyl}-4-piperidinyl)amino]methyl}-2H-pyrido[3,2-b][1,4]oxazin-3(4H)-one | 39.8 mg, 52% | COC=1C=CC2=C(N(C(C=N2)=O)CCN2CCC(CC2)NCC=2C=CC=3OCC(NC3N2)=O)N1 | C23H27N7O4
